US07273868B2
To a solution of 4-benzylthio-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine (prepared in the above (5)) 93 mg in chloroform 2.5 ml is dropped a solution of m-chloroperbenzoic acid 44 mg in chloroform 4 ml over a period of 10 minutes on a ice bath, and the mixture is stirred for 1.5 hours. The mixture is diluted with an aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-benzylsulfinyl-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine as a slightly yellow foam, 83 mg.

reactant | 4-benzylthio-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine | C(C1=CC=CC=C1)SC1=NC(=NC(=C1C(=O)OC)N1CCC(CC1)O)N1CC=2N(CC1)C=CN2 | C24H28N6O3S
reactant | m-chloroperbenzoic acid | 44 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 2.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-benzylsulfinyl-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine | C(C1=CC=CC=C1)S(=O)C1=NC(=NC(=C1C(=O)OC)N1CCC(CC1)O)N1CC=2N(CC1)C=CN2 | C24H28N6O4S
